US06388084B1
To a suspension of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (118 mg, 0.269 mmol) in ethanol (6 mL) was added IN aqueous sodium hydroxide solution (4 mL) at room temperature. The resulting solution was heated to 50° C. and stirred for 2 h. Then, the ethanol was removed under vacuum and the residue was diluted with water (25 mL). The aqueous solution was washed with diethyl ether (25 mL) to remove any neutral impurities. The aqueous layer was acidified with 1.0 N HCl and the product was extracted into ethyl acetate (2×25 mL). The combined organic extracts were washed with brine solution (50 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration afforded 81 mg (71% yield) of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine as a white solid: mp 204-210° C. FAB-HRMS m/e calcd for C23H21ClN2O4 (M+H) 425.1268, found 425.1267

reactant | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 0.269 mmol, 118 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C=CC1)C)=O)=O | C24H23ClN2O4
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 4 mL | [OH-].[Na+]
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine | 81 mg, 71% yield | ClC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C=CC1)C)=O)C(=O)O | C23H21ClN2O4
